US08039460B2
Step D: tert-Butyl[(6S,9R)-6-(2,3-difluorophenyl)-3-methyl-5,6,7,8,9,9a-hexahydro-1H-imidazo[1,5-a]azepin-9-yl]carbamate
A solution of tert-butyl [(3R,6S)-1-acetyl-2-(aminomethyl)-6-(2,3-difluorophenyl)azepan-3-yl]carbamate (22 mg, 0.055 mmol) in acetic acid (3 mL) was heated to 80° C. After 6 h, the reaction mixture was allowed to cool to ambient temperature. Saturated aqueous sodium bicarbonate was added and the mixture was extracted with dichloromethane (3×). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated. MS 380.1 (M+1).

reactant | tert-butyl [(3R,6S)-1-acetyl-2-(aminomethyl)-6-(2,3-difluorophenyl)azepan-3-yl]carbamate | 0.055 mmol, 22 mg | C(C)(=O)N1C([C@@H](CC[C@H](C1)C1=C(C(=CC=C1)F)F)NC(OC(C)(C)C)=O)CN | C20H29F2N3O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | tert-Butyl[(6S,9R)-6-(2,3-difluorophenyl)-3-methyl-5,6,7,8,9,9a-hexahydro-1H-imidazo[1,5-a]azepin-9-yl]carbamate | C(C)(C)(C)OC(N[C@H]1C2N(C[C@@H](CC1)C1=C(C(=CC=C1)F)F)C(=NC2)C)=O | C20H27F2N3O2
